US09278940B2
To a solution of methyl 3-(4-(6-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperazin-1-yl)propanoate (0.200 g, 0.44 mmol) in THF (10 mL), water (5 mL) and methanol (3 mL) was added lithium hydroxide (0.053 g, 2.21 mmol). The reaction was stirred for 2 h at rt. After that time the reaction was concentrated under reduced pressure, diluted with water (5 mL) and acidified using 1N HCl to pH 4.5-5.0. The precipitated solids were collected by filtration, washed with water and dried under high vacuum to give 3-(4-(6-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperazin-1-yl)propanoic acid (0.160 g, 83%) as a yellow solid: mp 241° C. dec.; 1H NMR (400 MHz, DMSO-d6) δ 11.15 (s, 1H), 7.68-7.80 (m, 2H), 7.09 (d, J=8.20 Hz, 1H), 6.78 (d, J=1.95 Hz, 1H), 6.58 (d, J=1.95 Hz, 1H), 3.91 (s, 3H), 3.86 (s, 3H), 3.73 (br s, 4H), 2.77-2.85 (m, 2H), 2.73 (br s, 4H), 2.55 (t, J=7.22 Hz, 2H); ESI MS m/z 440 [M+H]+.

reactant | methyl 3-(4-(6-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperazin-1-yl)propanoate | 0.44 mmol, 0.200 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=CC(=N1)N1CCN(CC1)CCC(=O)OC)=O | C23H27N5O5
reactant | lithium hydroxide | 2.21 mmol, 0.053 g | [OH-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 3-(4-(6-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperazin-1-yl)propanoic acid | 0.160 g, 83% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=CC(=N1)N1CCN(CC1)CCC(=O)O)=O | C22H25N5O5
